US08106197B2
To a mixture of ethyl 5-{6-amino-5-[(2,6-dichlorobenzyl)oxy]pyridin-3-yl}-1H-indole-2-carboxylate (2.5 g, 5.5 mmol) in methanol:water (60 mL:20 mL), lithium hydroxide (0.65 g, 27.1 mmol) was added. The reaction was heated to reflux for overnight. Most of the solvent was evaporated and the mixture was acidified, and stirred for 10 min. The precipitate was filtered out and washed with water to yield 5-{6-amino-5-[(2,6-dichlorobenzyl)oxy]pyridin-3-yl}-1H-indole-2-carboxylic acid as tan solid.

reactant | ethyl 5-{6-amino-5-[(2,6-dichlorobenzyl)oxy]pyridin-3-yl}-1H-indole-2-carboxylate | 5.5 mmol, 2.5 g | NC1=C(C=C(C=N1)C=1C=C2C=C(NC2=CC1)C(=O)OCC)OCC1=C(C=CC=C1Cl)Cl | C23H19Cl2N3O3
reactant | water | 60 mL | O | H2O
reactant | lithium hydroxide | 27.1 mmol, 0.65 g | [OH-].[Li+]
solvent | methanol | CO | CH4O
product | 5-{6-amino-5-[(2,6-dichlorobenzyl)oxy]pyridin-3-yl}-1H-indole-2-carboxylic acid | NC1=C(C=C(C=N1)C=1C=C2C=C(NC2=CC1)C(=O)O)OCC1=C(C=CC=C1Cl)Cl | C21H15Cl2N3O3
